US04213985
A solution of 4-chlorobutyryl chloride and 5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one in xylene was reacted to obtain 11-(4-chlorobutyryl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one which after crystallization from ethyl acetate melted at 205°-207° C.

reactant | 4-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
reactant | 5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | N1=CC=CC2=C1NC1=C(C(N2)=O)C=CC=C1 | C12H9N3O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 11-(4-chlorobutyryl)-5,11-dihydro-6H-pyrido-[2,3-b][1,4]-benzodiazepine-6-one | ClCCCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C16H14ClN3O2
